US05306728
46 mg of methyl (E,E)-5-(3-thienyl)-2,4-pentadienoate was dissolved in 1 ml of tetrahydrofuran, and 0.59 ml of a 1M toluene solution of diisobutylaluminum hydride was added dropwise at -40° C. Water, 0.6 ml of 1N hydrochloric acid and ethyl acetate were added to the solution , and the organic layer separated was worked up in a customary manner to give 40 mg of (E,E)-5-(3-thienyl)-2,4-pentadien-1-ol as a colorless oil.

reactant | methyl (E,E)-5-(3-thienyl)-2,4-pentadienoate | 46 mg | S1C=C(C=C1)/C=C/C=C/C(=O)OC | C10H10O2S
reactant | toluene | 1M | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1N, 0.6 ml | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (E,E)-5-(3-thienyl)-2,4-pentadien-1-ol | 40 mg | S1C=C(C=C1)/C=C/C=C/CO | C9H10OS
